US05583135
A mixture of 2,3-dihydro-7-chloro-9-methoxy-6-(1-indolinylcarbonyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine (1 g), ammonia in ethanol (13 ml) and chloroform (20 ml) was heated at 100° C. in a sealed tube for 4 days. The solvent was evaporated and the residue was purified by column chromatography on silica gel eluting with chloroform-methanol (20:1) to give crystals of 2,3-dihydro-7-amino-9-methoxy-6-(1-indolinyl-carbonyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine (0.35

reactant | 2,3-dihydro-7-chloro-9-methoxy-6-(1-indolinylcarbonyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine | 1 g | ClC1=C(C(N2CCOC=3C2=C1C=C(C3)OC)=O)C(=O)N3CCC1=CC=CC=C31 | C21H17ClN2O4
reactant | ammonia | N | H3N
solvent | ethanol | 13 ml | C(C)O | C2H6O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3-dihydro-7-amino-9-methoxy-6-(1-indolinyl-carbonyl)-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine | NC1=C(C(N2CCOC=3C2=C1C=C(C3)OC)=O)C(=O)N3CCC1=CC=CC=C31 | C21H19N3O4
